US08957070B2
2-Chloro-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]pyridine-3-sulfonamide
To a solution of N-methyl-2-(1,3-thiazol-2-yl)-1H-indole-7-amine monohydrochloride (132 mg) in pyridine (3 mL) was added 2-chloropyridine-3-sulfonyl chloride (120 mg) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated, water was added, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1) to give the title compound (126 mg, yield 62%) as pale-yellow crystals. melting point 203° C.

reactant | N-methyl-2-(1,3-thiazol-2-yl)-1H-indole-7-amine monohydrochloride | 132 mg | Cl.CNC=1C=CC=C2C=C(NC12)C=1SC=CN1
reactant | 2-chloropyridine-3-sulfonyl chloride | 120 mg | ClC1=NC=CC=C1S(=O)(=O)Cl | C5H3Cl2NO2S
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 2-Chloro-N-methyl-N-[2-(1,3-thiazol-2-yl)-1H-indol-7-yl]pyridine-3-sulfonamide | 126 mg, yield 62% | ClC1=NC=CC=C1S(=O)(=O)N(C=1C=CC=C2C=C(NC12)C=1SC=CN1)C | C17H13ClN4O2S2
